US04677100
(A) Benzhydryl 7-[(Z)-2-(1-benzhydryloxycarbonyl-1-cyclobutoxyimino)-2-(2-tritylaminothiazol-4-yl)acetamido]-3-chloromethyl-3-cephem-4-carboxylate
1.82 g (2.62 mmol) of [(Z)-2-(1-benzhydryloxycarbonyl-1-cyclobutoxyimino)-2-(2-tritylaminothiazol-4-yl)acetic acid and 1.09 g (2.62 mmol) of benzhydryl 7-amino-3-chloromethyl-3-cephem-4-carboxylate were dissolved in 40 ml of methylene chloride, and then 1.06 ml (8.39 mmol) of N,N-dimethylaniline and 0.26 ml (2.75 mmol) of phosphorus oxychloride were dropwise added thereto under cooling with ice. The mixture was stirred at the same temperature for 4 hours. To the reaction solution, 30 ml of chloroform and 30 ml of water were added. The organic layer was washed with water and with a saturated sodium chloride aqueous solution, then dried over anhydrous sodium sulfate and concentrated to obtain a residue of the above-identified compound. The residue of the compound thus obtained was employed for the next reaction without purification.

reactant | (Z)-2-(1-benzhydryloxycarbonyl-1-cyclobutoxyimino)-2-(2-tritylaminothiazol-4-yl)acetic acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C1(CCC1)O\N=C(/C(=O)O)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C42H35N3O5S
reactant | benzhydryl 7-amino-3-chloromethyl-3-cephem-4-carboxylate | 2.62 mmol, 1.09 g | NC1[C@@H]2N(C(=C(CS2)CCl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C21H19ClN2O3S
reactant | N,N-dimethylaniline | 8.39 mmol, 1.06 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | phosphorus oxychloride | 2.75 mmol, 0.26 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | water | 30 ml | O | H2O
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | Benzhydryl 7-[(Z)-2-(1-benzhydryloxycarbonyl-1-cyclobutoxyimino)-2-(2-tritylaminothiazol-4-yl)acetamido]-3-chloromethyl-3-cephem-4-carboxylate | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C1(CCC1)O\N=C(/C(=O)NC1[C@@H]2N(C(=C(CS2)CCl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C63H52ClN5O7S2
